US08476302B2
A mixture of methyl 2-hydroxyoct-7-enoate (5.0 g, 0.029 mol), 5-bromo-2-fluoropyridine (6.3 g, 0.035 mol), triethylamine (60 mL), pyridine (6.0 mL), palladium acetate (0.326 g, 0.0014 mol), and tri(o-tolyl)phosphine (1.77 g, 0.0058 mmol) in DMF (30 mL) was heated in a screw-top tube under argon at 100° C. for 3 days. After cooling to room temperature, the resulting mixture was diluted with ethyl acetate and washed sequentially with saturated aqueous ammonium chloride and brine. The organic layer was dried (MgSO4) filtered, and concentrated. The resulting residue was purified by a reversed phase chromatography (Kromasil column (10 u, 100 Å C18, column length 250×50 mm, gradient 80:20-10:90 TFA-H2O:MeCN). The isolated product was dissolved in ethyl acetate and washed with saturated aqueous ammonium bicarbonate. The organic layer was dried (MgSO4) filtered and concentrated to yield (E)-methyl 8-(6-fluoropyridin-3-yl)-2-hydroxyoct-7-enoate. A slurry of (E)-methyl 8-(6-fluoropyridin-3-yl)-2-hydroxyoct-7-enoate (3.0 g, 0.011 mol), 10% palladium on carbon (0.5 g), and ethanol (56 mL) was hydrogenated at 20 psi H2 for 24 h. The resulting mixture was filtered through CELITE and concentrated to yield methyl 8-(6-fluoropyridin-3-yl)-2-hydroxyoctanoate which was used in the next step without further purification. A mixture of methyl 8-(6-fluoropyridin-3-yl)-2-hydroxyoctanoate (3.0 g, 11.1 mmol), tetrahydrofuran (56 mL), water (139 mL) and lithium hydroxide (1.33 g, 55.7 mmol) was stirred at room temperature for 2 h. After washing with diethyl ether, the aqueous layer was acidified with 1N HCl and extracted with ethyl acetate. The organic layer was dried over MgSO4 filtered and concentrated to yield 8-(6-fluoropyridin-3-yl)-2-hydroxyoctanoic acid which was used in the next step without further purification. To a solution of 8-(6-fluoropyridin-3-yl)-2-hydroxyoctanoic acid (2.0 g, 7.83 mmol), 1-hydroxybenzotriazole hydrate (1.27 g, 9.40 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (1.80 g, 9.40 mmol), and dimethylformamide (20 mL) was added diisopropylethylamine (5.5 mL, 31.3 mmol) and 4-(5-(aminomethyl)-1,3,4-thiadiazol-2-yl)phenol (2.26 g, 7.83 mmol). After stirring at room temperature for 24 h, the resulting mixture was diluted with ethyl acetate and washed sequentially with saturated aqueous ammonium bicarbonate and brine. The organic extracts were dried (Na2SO4) and concentrated, and the resulting residue was purified by silica gel chromatography (Analogix IF-280, SF65-400 g column, gradient 100:0-80:20 dichloromethane:ethanol) to yield 8-(6-fluoropyridin-3-yl)-2-hydroxy-N-((5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl)methyl)octanamide. Methyl 3-(bromomethyl)benzoate (79.7 mg, 0.337 mmol) was added to a solution of 8-(6-fluoropyridin-3-yl)-2-hydroxy-N-((5-(4-hydroxyphenyl)-1,3,4-thiadiazol-2-yl)methyl)octanamide (100 mg, 0.225 mmol), cesium carbonate (220 mg, 0.675 mmol), and dimethylformamide (4.09 mL) and stirred for 20 h. The resulting mixture was diluted with ethyl acetate and washed with water. The layers were separated and the organic layer was dried (Na2SO4) and concentrated. Purification of the resulting residue by reversed phase chromatography on a Gilson HPLC with a Kromasil column (10 u, 100 Å C18, column length 250×50 mm, gradient 60:40-10:90 TFA-H2O:MeCN) yield methyl 3-((4-(5-((8-(6-fluoropyridin-3-yl)-2-hydroxyoctanamido)methyl)-1,3,4-thiadiazol-2-yl)phenoxy)methyl)benzoate. A solution of methyl 3-((4-(5-((8-(6-fluoropyridin-3-yl)-2-hydroxyoctanamido)methyl)-1,3,4-thiadiazol-2-yl)phenoxy)methyl)benzoate (28.0 mg, 0.040 mmol) in dichloromethane (5.0 mL) was added dropwise to a mixture of 1,1,1-tris(acetyloxy)1,1-dihydro-1,2-benziodoxol-3-(1H)-one (33.6 mg, 0.079 mmol) and dichloromethane (4.0 mL). After stirring at room temperature for 2.5 h, the resulting mixture was quenched with a solution of sodium thiosulfate in saturated aqueous ammonium bicarbonate. The mixture was then extracted with dichloromethane, and the organic extract was dried (MgSO4) and concentrated. Purification of the resulting residue by reversed phase chromatography on a Gilson HPLC with a Kromasil column (10 u, 100 Å C18, column length 250×50 mm, gradient 55:45-10:90 H2O:MeCN) yielded the title compound.

reactant | (E)-methyl 8-(6-fluoropyridin-3-yl)-2-hydroxyoct-7-enoate | 0.011 mol, 3.0 g | FC1=CC=C(C=N1)/C=C/CCCCC(C(=O)OC)O | C14H18FNO3
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | ethanol | 56 mL | C(C)O | C2H6O
product | methyl 8-(6-fluoropyridin-3-yl)-2-hydroxyoctanoate | FC1=CC=C(C=N1)CCCCCCC(C(=O)OC)O | C14H20FNO3
